Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CC: abdominal pain, nausea, vomiting
 

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HPI: Ms. ___ is a ___ y/o at ___'1 with a history of Hep C and 
depression, here with right-sided abdominal pain and 
nausea/vomiting.  She reports constant ___ right-sided 
abdominal pain that does not change with eating, movement, and 
is not relieved by tylenol. She was seen in triage yesterday for 
similar complaints and had lab work notable for ALT 56, Hct 
28.3, otherwise normal. She was given one dose of Indocin 
withoutimprovement in her symptoms, and was given 5mg oxycodone 
with improvement in her symptoms. She was also recommended to 
follow-up with GI today. 
 
She reports that she went home last night and after the 
oxycodonehad worn off, she developed nausea and vomiting and was 
unable to keep food or liquids down. She was seen at ___ GI 
today, and had normal bloodwork and UA, and urine culture was 
collected. She was recommended for an abdominal ultrasound, 
however per patient, she was in too much pain to have the 
procedure done today. She denies fevers, chills, urinary 
symptoms, chest pain, shortness of breath. Reports + FM, no 
contractions, VB or LOF. 
 
Of note, per the patient, she is also s/p MRI x 2 (most recently 
done on ___ at ___, showing 4cm fibroid, otherwise 
normal). Per her ___ documentation, she has had work-up for 
this pain at three different hospitals thus far. 
 

 
--------------- --------------- --------------- ---------------
Active Medication list as of ___:
  
Medications - OTC
DOCUSATE SODIUM [COLACE] - Colace 100 mg capsule. 1 capsule(s) 
by
mouth daily take with iron.  You may increase dose to twice a 
day
if constipation is a problem with once daily dosing
FERROUS SULFATE [FEOSOL] - Feosol 325 mg (65 mg iron) tablet. 1
tablet(s) by mouth daily Take with Colace
Gabapentin 300mg TID
--------------- --------------- --------------- ---------------
Allergies (Last Verified ___ by ___:
Patient recorded as having no known allergies to drugs           

 
 
A/P: ___ yo G3P1 at 26w1d here with persistent abdominal pain, 
nausea, and vomiting. 
 
*) Abdominal pain, N/V
- IVF if unable to tolerate PO
- Zofran, pepcid PRN
- Avoid narcotics, avoid Tylenol given elevated ALT in setting 
of Hep C
- s/p normal CBC, Chem ___, no plan for further labs
[ ] Abdominal ultrasound, pelvic ultrasound
 
*) Hep C
- new diagnosis this pregnancy
- ALT 56 (___), avoid tylenol
 
*) Dispo: admit to Antepartum for observation overnight
 
 
Discussed with Dr. ___
 
___, MD, ___
Obstetrics and Gynecology, PGY2
___ ___
 
___ MD addendum
___ seen and examined.  Briefly she is a ___ yo G2P1 at 26+1 
with acute on chronic abdominal pain.  She has had a thorough 
evaluation in multiple EDs and with GI.  No etiology defined. 
She has had ___ MRIs, most recent on ___ and she notes that the 
pain has not changed since then.  Denies fevers, hematuria.  Ddx 
is broad and many diagnoses have already been explored including 
appy, kidney stones, degenerating fibroid.  Will obtain 
abdominal ultrasound per GI recs this morning and pelvic 
ultrasound to eval ovaries.  Offered overnight admission for obs 
given multiple presentations with same complaint.  Accepted by 
patient.  All questions answered.
 
Admission  (Full documentation of this service is in the 
hospital record. This is a brief summary)
    Date:  ___
    Admitting clinician:  ___, MD          
    Presented to ___ 
    On site/collaborating MD:  not applicable
    Admission level: 2
    GA: 26w1d
    Studies:  
    
      NST: Indication: abdominal pain
      Baseline: 140's
      Variability: moderate
      Accelerations: consistent with gestational age
      Decelerations: none
      Contractions: none
      Duration of the NST was 15 minutes
      Impression: appropriate for gestational age
      Read & Interpreted by: ___, MD
 
    Diagnosis(es):  Abdominal pain at 26 weeks gestation
 
Resident attestation:  I evaluated this patient in conjunction 
with the resident.  I was personally present for key portions of 
this visit, which included formation of assessment and plan.  
Discussed with resident and agree with their findings and plan 
as documented in their note.
 
 
 
Past Medical History:
PNC:
- ___ ___ by ___
- Labs: Rh +, HIV neg, Hep B neg, RPR neg, RI
- FFS: normal
- Screening: LR ERA
- Issues: Chlamydia infection in early pregnancy, s/p treatment 
with neg TOC.
- Multiple triage visits for abdominal pain/N/V
- New Hep C diagnosis in pregnancy, per patient, plan to defer 
treatment until after delivery
 
OB History:
SVD x 1, term, uncomplicated
SAB with D&C
 
Gyn history: denies fibroids, endometriosis, ovarian cysts or 
other GYN diagnoses
 
PMH: Hep C (diagnosed in this pregnancy), Depression, 
Fibromyalgia, h/o depression/anxiety previous hospitalization 
for suicide attempt age ___, PP depression in setting of breakup 
with FOB 2 weeks PP, currently no meds or therapist, reports 
stable mood, lumbar disc disease
PSH: denies
 

 
Social History:
Patient screened for DV without boyfriend in room; denies 
concerns for abuse or safety in her relationship. 
 

 
Physical Exam:
Physical Exam:
 
Vitals: ___ 15:09                       MHR: 77
          ___ 14:23                  Resp.: 18 / min
          ___ 14:23                  Temp.: 97.9°F
          ___ 14:15                  BP: 110/58 (71)
Gen: Gravid well developed, well nourished female,
appearing in no acute distress
Abdomen: no masses, no palpable organomegaly, gravid, no fundal
tenderness, mild right mid abdominal tenderness to deep
palpation, no rebound, no guarding, no abdominal distention
Ext: symmetric, non-tender, no edema
Pelvic exam: deferred given no contractions
 
Toco: no ctx
  

 
Brief Hospital Course:
pt was admitted for recurrence and persistence of abd pain
abd U/S and pelvic U/S were obtained which were negative 
(appendix visualized)
labs normal
pt with benign and non-acute exam entire hospitalization; always 
afebrile with VSS
pt did receive oxycodone X 1 on HD#1
etiology at end of hospitalization unclear but no s/sx of acute 
process and pt always looked well
 
Medications on Admission:
Medications - OTC
DOCUSATE SODIUM [COLACE] - Colace 100 mg capsule. 1 capsule(s) 
by
mouth daily take with iron.  You may increase dose to twice a 
day
if constipation is a problem with once daily dosing
FERROUS SULFATE [FEOSOL] - Feosol 325 mg (65 mg iron) tablet. 1
tablet(s) by mouth daily Take with Colace
Gabapentin 300mg TID

 
Discharge Medications:
gabapentin 400 mg po TID
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
abdominal pain

 
Discharge Condition:
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
call for worsening persistent abdominal pain, fevers, persistent 
vomitting
 
Followup Instructions:
___